US05382661
Step (E) 16α-Methyl-17β-(1-oxo-[4-hydroxy]butyl)androsta-4,9(11)-dien-3-one 16α-Methyl-17β-(1-oxo-[4-tetrahydropyranyloxy]butyl)-androsta-5,9(11)-dien-3-one 3-ethylene ketal, step (D), is dissolved in aceton (90 ml) and hydrochloric acid (1N, 10 ml) and allowed to stand at 20°-25° for several hours. Following addition of potassium bicarbonate (1N, 25 ml), the mixture is concentrated and extracted with ethyl acetate. The concentrate is chromatographed on silica gel eluting with acetone/methylene chloride. The appropriate fractions are pooled and concentrated to give 16α-methyl-17β-(1-oxo-[4-hydroxy]butyl)androsta-4,9(11)-dien-3-one.

reactant | 16α-Methyl-17β-(1-oxo-[4-hydroxy]butyl)androsta-4,9(11)-dien-3-one 16α-Methyl-17β-(1-oxo-[4-tetrahydropyranyloxy]butyl)-androsta-5,9(11)-dien-3-one 3-ethylene ketal | C1COC2(CC3=CC[C@H]4[C@@H]5C[C@H]([C@@H]([C@@]5(C)CC=C4[C@]3(CC2)C)C(CCCOC2CCOCC2)=O)C)O1.C[C@H]1[C@@H]([C@]2(C)[C@@H](C1)[C@@H]1CCC3=CC(CC[C@]3(C)C1=CC2)=O)C(CCCO)=O
reactant | hydrochloric acid | 1N, 10 ml | Cl | ClH
reactant | potassium bicarbonate | 1N, 25 ml | C([O-])(O)=O.[K+]
solvent | aceton | 90 ml | CC(=O)C | C3H6O
product | 16α-methyl-17β-(1-oxo-[4-hydroxy]butyl)androsta-4,9(11)-dien-3-one | C[C@H]1[C@@H]([C@]2(C)[C@@H](C1)[C@@H]1CCC3=CC(CC[C@]3(C)C1=CC2)=O)C(CCCO)=O | C24H34O3
